US09353104B2
Step C: 4-bromo-2-(4-methoxybenzyl)-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)pyridazin-3(2H)-one (6)
DIAD (0.625 ml, 3.21 mmol) was added to a mixture of 5-bromo-1-(4-methoxybenzyl)-1,2-dihydropyridazine-3,6-dione (500 mg, 1.607 mmol), ((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methanol (288 mg, 1.607 mmol) and PPh3 (843 mg, 3.21 mmol) in THF (15 ml) at 0° C.

reactant | DIAD | 3.21 mmol, 0.625 ml | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | 5-bromo-1-(4-methoxybenzyl)-1,2-dihydropyridazine-3,6-dione | 1.607 mmol, 500 mg | BrC1=CC(NN(C1=O)CC1=CC=C(C=C1)OC)=O | C12H11BrN2O3
reactant | ((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methanol | 1.607 mmol, 288 mg | COC=1C=CC(=NC1)[C@@H]1[C@H](C1)CO | C10H13NO2
reactant | PPh3 | 3.21 mmol, 843 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 4-bromo-2-(4-methoxybenzyl)-6-(((1S,2S)-2-(5-methoxypyridin-2-yl)cyclopropyl)methoxy)pyridazin-3(2H)-one | BrC=1C(N(N=C(C1)OC[C@@H]1[C@H](C1)C1=NC=C(C=C1)OC)CC1=CC=C(C=C1)OC)=O | C22H22BrN3O4
